US08791139B2
Synthesis id of 3-{3-[3,5-bis(trifluoromethyl)phenyl]-2-oxoimidazolidin-1-yl}-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylic acid
660 mg (1.20 mmol) of ethyl 3-{3-[3,5-bis(trifluoromethyl)phenyl]-2-oxoimidazolidin-1-yl}-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate were dissolved in 10 ml of ethanol, 72 mg (1.80 mmol) of 2N aqueous sodium hydroxide solution were added and the mixture was stirred at RT for 1 h. The solvent was distilled off under reduced pressure, the residue was taken up in water and the mixture was extracted once with methyl tert-butyl ether. The aqueous phase was then acidified with 2N hydrochloric acid and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulphate and concentrated.

reactant | ethyl 3-{3-[3,5-bis(trifluoromethyl)phenyl]-2-oxoimidazolidin-1-yl}-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate | 1.20 mmol, 660 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)N1C(N(CC1)C1=NN(C(=C1)C(=O)OCC)C1=NC=CC=C1Cl)=O)(F)F | C22H16ClF6N5O3
reactant | sodium hydroxide | 1.80 mmol, 2N, 72 mg | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-{3-[3,5-bis(trifluoromethyl)phenyl]-2-oxoimidazolidin-1-yl}-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)N1C(N(CC1)C1=NN(C(=C1)C(=O)O)C1=NC=CC=C1Cl)=O)(F)F | C20H12ClF6N5O3
